US05208224
N-[2,6-Bis(1-methylethyl)phenyl]-2-acetoxy Acetamide
To a solution of acetoxyacetyl chloride (13.5 g, 98.7 mmol) in toluene (70 mL) at 0° C. is added dropwise via a dropping funnel a solution of 2,6-diisopropylaniline (17.5 g, 98.7 mmol) and triethylamine (20.6 mL, 148.1 mmol) in toluene (20 mL). After completion of the addition, the mixture is allowed to warm to room temperature and stirred for 24 hours. The mixture is filtered through a small pad of silica gel. The filtrate is concentrated to afford 11 g of a brown solid. The precipitate is suspended in ethyl acetate and stirred overnight. After filtration, the filtrate is concentrated to give another 10 g of a brown solid. Recrystallization (ethyl acetate/hexane) of the combined material provided 12 g of the title compound as an off-white solid; mp 179°-182° C.

reactant | acetoxyacetyl chloride | 98.7 mmol, 13.5 g | C(C)(=O)OCC(=O)Cl | C4H5ClO3
reactant | 2,6-diisopropylaniline | 98.7 mmol, 17.5 g | C(C)(C)C1=C(N)C(=CC=C1)C(C)C | C12H19N
reactant | triethylamine | 148.1 mmol, 20.6 mL | C(C)N(CC)CC | C6H15N
solvent | toluene | 70 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | N-[2,6-Bis(1-methylethyl)phenyl]-2-acetoxy Acetamide | 11 g | CC(C)C1=C(C(=CC=C1)C(C)C)NC(COC(C)=O)=O | C16H23NO3
